reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[N:2](=[C:3]=[O:4])[C:5](=[O:6])[H:11],92.39725665548559
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]([C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])[H:9])([H:7])[H:8],84.7829845575542
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]#[N:4])[H:10])([H:7])([H:8])[H:9].[C:5]=[N:6][H:11],61.957370602193095
[O:1]([C:6]([O:5][C@@:4]1([H:12])[C:2][C:3]1([H:10])[H:11])([O:7][H:9])[H:13])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],10.026118587531514
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([O:5][H:9])[H:13])([H:6])([H:7])[H:8],92.5933775749052
[C:1]([C:2]([O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],32.4770392420088
[C:1]([N:2]1[N:3]=[C:4]=[N+:5]([H:10])[N-:6]1)([H:7])([H:8])[H:9]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],42.996070712805206
[C:1]([C@:2]([O:3][H:11])([C:6]#[C:7][H:15])[H:13])([H:8])([H:9])[H:10].[C:4]([O:5][H:14])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],12.282092207842183
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]1\[O:3][C:4]1([H:10])[H:11])\[H:9].[O:5]=[C:6]([O:7][H:8])[H:12],48.509339809188496
[C:1]([N+:2](=[C:3]([H:10])[H:11])[C:4]([O-:5])=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9].[H:12][H:15]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],24.182989881938397
[C:1]([C:2]#[C:3][C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3])[C:4]#[N:5])([H:6])([H:7])[H:8],55.458903743608104
[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:9].[C:4](=[N:5][H:15])([H:13])[H:14].[C:6](=[O:7])([H:10])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],39.49076054879221
[C:5]=[N:6][H:8].[N:1](=[C:2](/[C:3]([O:4][H:12])([H:10])[H:11])[H:9])\[H:7]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],29.6822191188838
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]([C:4][O:5][H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],72.7701545630426
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11],84.5726669551658
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4][C:5]([H:15])([H:16])[H:17])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:14])([H:18])([H:19])[H:20],91.4947091345246
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])=[C:6]=[N:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],92.901876785345
[O:1]1[C@@:2]2([H:9])[C:3]([H:10])([H:11])[C@@:4]12[H:12].[O:5]=[C:6]([O:7][H:8])[H:13]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],36.964255382957205
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:14][H:16],85.1270282041158
[N+:1]([C-:2]([C:3]#[N:4])[H:9])([C:5]#[N:6])([H:7])[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],10.785005105252509
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([O:5][H:11])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],68.6398862215507
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[N:6]([H:10])[H:11])[H:9])([H:7])[H:8],76.8140428296633
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:15])[C:6]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])[H:10])([H:7])([H:9])[H:14],93.4462998258
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[H:10][H:14].[O:1]=[C:2]([C:3]([C@@:4]([O:5][H:8])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])[H:9],67.8525298128619
